US06380230B1
A) 4-Cyclohexyl-1-(2,4-dimethoxyphenyl)butan-1-one
3.53 g of AlCl3 and 5 g of 4-cyclohexanebutyryl chloride in 100 ml of CCl4 are mixed together and 5 g of 1,3-dimethoxybenzene are added dropwise, at 0° C. After stirring for 3 hours at 0° C., the entire mixture is poured onto dilute ice-cold HCl solution. The organic phase is separated out by settling and is then washed with 0.5N NaOH. After drying over MgSO4 and evaporation of the solvent, the residue is chromatographed on a column of silica H, eluting with toluene, to give 4.5 g of the expected compound in the form of an oil.

reactant | AlCl3 | 3.53 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 4-cyclohexanebutyryl chloride | 5 g | C1CCC(CC1)CCCC(=O)Cl | C10H17ClO
reactant | 1,3-dimethoxybenzene | 5 g | COC1=CC(=CC=C1)OC | C8H10O2
solvent | CCl4 | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Cyclohexyl-1-(2,4-dimethoxyphenyl)butan-1-one | 4.5 g | C1(CCCCC1)CCCC(=O)C1=C(C=C(C=C1)OC)OC | C18H26O3
